US04451476
The intermediate 7-(4-cyanophenoxy)heptyl bromide was prepared from the potassium salt of 4-cyanophenol and 1,7-dibromoheptane.

reactant | potassium | [K] | K
reactant | 4-cyanophenol | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | 1,7-dibromoheptane | BrCCCCCCCBr | C7H14Br2
product | 7-(4-cyanophenoxy)heptyl bromide | C(#N)C1=CC=C(OCCCCCCCBr)C=C1 | C14H18BrNO
